* source UCC27511A
* PSpice Model Editor - Version 16.2.0
*$
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UCC27511A
* Date: 12JAN2018 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM5114BSDEVAL/NOPB  
* EVM Users Guide: SNVA625A
* Datasheet: SLUSD95
*
*
* Model Version: Final 1.00
*****************************************************************************
.subckt UCC27511A INM INP VDD GND OUTH OUTL
V_U1_U_range_V7         U1_U_range_N16694250 GND 0.1
V_U1_U_range_V10         U1_U_range_N16694604 GND 20
V_U1_U_range_V11         U1_U_range_N16694520 GND 0.1
X_U1_U_range_U15         U1_U_range_N16694452 INM U1_U_range_N16694360
+  U1_U_range_N16694448 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U_range_U17         INM U1_U_range_N16694700 U1_U_range_N16694616
+  U1_U_range_N16694750 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U1_U_range_V8         U1_U_range_N16694452 GND -5
V_U1_U_range_V12         U1_U_range_N16694700 GND 20
V_U1_U_range_V9         U1_U_range_N16694360 GND 0.1
V_U1_U_range_V13         U1_U_range_N16694616 GND 0.1
X_U1_U_range_U3         U1_U_range_N16694338 U1_U_range_N16694448
+  U1_U_range_N16694512 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U_range_U4         U1_U_range_N16694754 U1_U_range_N16694750
+  U1_U_range_N16694814 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U_range_U14         U1_U_range_N16694346 INP U1_U_range_N16694250
+  U1_U_range_N16694338 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U_range_U16         INP U1_U_range_N16694604 U1_U_range_N16694520
+  U1_U_range_N16694754 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U1_U_range_V6         U1_U_range_N16694346 GND -5
X_U1_U_range_U5         U1_U_range_N16694512 U1_U_range_N16694814
+  U1_OUT_OF_RANGE OR2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
R_U1_U1_R5         U1_U1_N16684429 U1_U1_N16684461  20  
E_U1_U1_E1         U1_U1_N16684643 OUTH VALUE { IF(V(U1_U1_N16687249, 0) > 0.5,
+  5, -5) }
X_U1_U1_U5         U1_U1_N16687927 U1_U1_N16684421 U1_U1_N16684637
+  AND2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
C_U1_U1_C2         U1_U1_N16684489 U1_U1_N16684461  5p  
M_U1_U1_M1         U1_U1_N16684683 U1_U1_N16684679 OUTH OUTH NMOS01           
X_U1_U1_U1         U1_N16684910 U1_U1_N16684421 BUF_DELAY_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5 DELAY=9n
R_U1_U1_R6         U1_U1_N16684489 GND  0.02  
X_U1_U1_U7         U1_U1_N16687858 U1_U1_N16687927 INV_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_U1_U1_C5         OUTL GND  10p  
C_U1_U1_C1         U1_U1_N16684679 U1_U1_N16684683  5p  
C_U1_U1_C3         OUTH U1_U1_N16684679  10p  
E_U1_U1_E2         OUTL U1_U1_N16684429 VALUE { IF(V(U1_U1_N16684637, 0) > 0.5,
+  -5, 5) }
R_U1_U1_R4         VDD U1_U1_N16684683  0.02  
X_U1_U1_U2         U1_OUT_OF_RANGE U1_U1_N16687858 BUF_DELAY_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5 DELAY=9n
C_U1_U1_C6         OUTL U1_U1_N16684461  10p  
X_U1_U1_U4         U1_U1_N16684421 U1_U1_N16687858 U1_U1_N16687249
+  OR2_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
M_U1_U1_M2         U1_U1_N16684489 U1_U1_N16684461 OUTL OUTL PMOS02           
R_U1_U1_R3         U1_U1_N16684643 U1_U1_N16684679  20  
C_U1_U1_C4         VDD OUTH  10p  
X_U1_ULogic_U16         U1_ULogic_N16681316 U1_ULogic_N16676841 INV_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_U1_ULogic_V3         U1_ULogic_N16676785 GND 2.2
V_U1_ULogic_V4         U1_ULogic_N16676791 GND 1
X_U1_ULogic_U14         VDD U1_ULogic_N16676933 U1_ULogic_N16676939
+  U1_ULogic_N16677085 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_ULogic_U15         U1_ULogic_N16677085 U1_ULogic_N16676841
+  U1_ULogic_N16679531 U1_N16684910 AND3_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_U1_ULogic_V6         U1_ULogic_N16676933 GND 4.2
R_U1_ULogic_R1         INM VDD  200k  
R_U1_ULogic_R2         GND INP  230k  
V_U1_ULogic_V7         U1_ULogic_N16676939 GND 0.3
V_U1_ULogic_V1         U1_ULogic_N16676631 GND 2.2
X_U1_ULogic_U10         INM U1_ULogic_N16676631 U1_ULogic_N16676657
+  U1_ULogic_N16681316 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U1_ULogic_V2         U1_ULogic_N16676657 GND 1
X_U1_ULogic_U5         INP U1_ULogic_N16676785 U1_ULogic_N16676791
+  U1_ULogic_N16679531 COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
.ends UCC27511A
****************************************************************
** Wrapper definitions for AA legacy support **
*$
.model NMOS01 nmos
+ vto=2
+ kp=0.889
+ lambda=0.001
*$
.model PMOS02 pmos
+ vto=-2
+ kp=1.778
+ lambda=0.001
*$
.SUBCKT D_IDEAL A C PARAMS: RS = 1 VTH = 0.7
G1 A C VALUE { MAX(0, ( V(A) - V(C) - { VTH }) / { RS } ) }
R1 A C 1G
.ENDS D_IDEAL
*$
.model DIODE01 D
+ IS = 1E-15
+ N = 1
+ TT = 1E-11
+ RS = 0.5
+ CJO = 1E-10
+ XTI = 0.0
*$
.SUBCKT Z_IDEAL A C PARAMS: RS = 1 VTH = 6.4
G1 A C VALUE { MIN(0, ( V(A) - V(C) + { VTH } ) / { RS } ) }
R1 A C 1G
.ENDS Z_IDEAL
*$
.SUBCKT DELAY INP OUT PARAMS: RINP = 1k DELAY = 10n
R1 INP 101 {RINP}
C1 101 102 { 1.4427 * DELAY / RINP }
E1 102 0 OUT 0 0.5
E2 OUT 0 VALUE {IF(V(101) > 0.5, 1, 0)}
.ENDS DELAY
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5.0n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT COMP_INV VOUT VINP VINN PARAMS: VHYS = 0.05
E1 YINT 0 
+ VALUE {IF(V(VINP) + (1 - V(VOUT))*VHYS > V(VINN), 0, 1)}
R1 YINT VOUT 1
C1 VOUT 0 1n
.ENDS COMP_INV
*$
.SUBCKT AND3 A B C Y
E1 YINT 0 VALUE {
+ IF(V(A) > 0.5 &
+ V(B) > 0.5 &
+ V(C) > 0.5, 1, 0)}
R1 YINT Y 1
C1 Y 0 1n
.ENDS AND3
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
